US07087599B2
A solution of (2RS,9aSR)-9a-butyl-7-methoxymethoxy-4-methyl-2-(2-oxoethyl)-1,2,9,9a-tetrahydro-3H-fluoren-3-one (85 mg) in methanol (1 mL) was diluted with 2N HCl (0.36 mL, 0.72 mmol). The resulting mixture was stirred at room temperature for 30 minutes followed by heating in an oil bath at 80° C. for 40 minutes. On cooling to room temperature, crystals formed. The mixture was diluted with EtOAc and washed with 5% NaHCO3 and 1N HCl. The aqueous washes were back-extracted with EtOAc. The combined organics were washed with brine, dried over MgSO4, filtered, and concentrated under vacuum. The residue was purified by PLC on a 0.1×20×20 cm silica gel GF plate, using 2:1 hexanes-EtOAc as developing solvent, to afford (2RS,9aSR)-9a-butyl-7-hydroxy-4-methyl-2-(2-oxoethyl)-1,2,9,9a-tetrahydro-3H-fluoren-3-one (50 mg).

reactant | (2RS,9aSR)-9a-butyl-7-methoxymethoxy-4-methyl-2-(2-oxoethyl)-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 85 mg | C(CCC)C12CC3=CC(=CC=C3C2=C(C(C(C1)CC=O)=O)C)OCOC | C22H28O4
reactant | HCl | 0.72 mmol, 2N, 0.36 mL | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2RS,9aSR)-9a-butyl-7-hydroxy-4-methyl-2-(2-oxoethyl)-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 50 mg | C(CCC)C12CC3=CC(=CC=C3C2=C(C(C(C1)CC=O)=O)C)O | C20H24O3
